US07098212B2
Thioacetic acid S-(5-chloro-2-methoxy-benzyl)ester
To a solution of cesium carbonate (0.55 g, 1.70 mmol) in dimethylformamide (13 mL) was added thioacetic acid (0.24 g, 3.14 mmol) followed by addition of 4-chloro-2-chloromethyl-1-methoxybenzene (0.50 g, 2.62 mmol) in one portion. The reaction was stirred in the dark at ambient temperature overnight. The reaction was diluted with ethyl acetate, washed with water, 5% aqueous sodium hydrogen carbonate, and brine. The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.58 g).

reactant | cesium carbonate | 1.70 mmol, 0.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thioacetic acid | 3.14 mmol, 0.24 g | C(C)(=S)O | C2H4OS
reactant | 4-chloro-2-chloromethyl-1-methoxybenzene | 2.62 mmol, 0.50 g | ClC1=CC(=C(C=C1)OC)CCl | C8H8Cl2O
solvent | dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Thioacetic acid S-(5-chloro-2-methoxy-benzyl)ester | 0.58 g | ClC=1C=CC(=C(CSC(C)=O)C1)OC | C10H11ClO2S
